US04678785
To a solution of acetonitrile (100 ml) were added 6-chloroacetyl-3,4-dihydrocarbostyril (6.7 g) and ethoxythiocarbonylhydrazine (5.4 g) and the mixture was stirred for 2 hours, cooled and then filtered off. The filtrate was recrystallized from dimethylformamide (30 ml) and water (10 ml) to obtain pale yellowish 5-(3,4-dihydrocarbostyril-6-yl)-3,6-dihydro-1,3,4-thiadiazin-2-one (5.2 g), m.p. 271°-272° C. (decomposition).

reactant | 6-chloroacetyl-3,4-dihydrocarbostyril | 6.7 g | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | ethoxythiocarbonylhydrazine | 5.4 g | C(C)OC(=S)NN | C3H8N2OS
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(3,4-dihydrocarbostyril-6-yl)-3,6-dihydro-1,3,4-thiadiazin-2-one | 5.2 g | N1C(=O)CCC2=CC(=CC=C12)C1=NNC(SC1)=O | C12H11N3O2S
